**************************************************************
* For SON Bug 1034
*
* Test of what non-alphanumeric characters are legal in 
* a Xyce node or device name when that name is used within
* an operator like V(a+) within an expression.  This includes 
* the following characters, in top-level circuits and
* in subcircuits:
*
* ` ~ ! @ # $ % ^ & - _ + [ ] | \ < > . ? /
*
* Note that .print DC {v(1*)} {v(*)} {v(1?)} {v(?)} will print out the voltages
* at nodes 1*, *, 1? and ?.  *, 1*, ? and 1? are NOT wildcard syntaxes when
* used within expression delimiters.
*
* This also tests the case of using an operator name (e.g., V)
* as the variable name in a .FUNC statement.
*
* 3/8/2023 - this test is expanded to include currents from voltage 
* sources that have funny characters in their names.  This was a use 
* case that wasn't tested before.
*
**************************************************************
.DC V3 1 1 1
.print DC WIDTH=6 PRECISION=1 v(3) {v(1`)} {v(1~)} {v(1!)} {v(1@)} 
+ {v(1$)} {v(1%)} {v(1^)} {v(1&)} 
+ {v(1*)} {v(1-)} {v(1_)} {v(1+)} {v(1[)} 
+ {v(1])} {v(1|)} {v(1\)} {v(1<)} {v(1>)} {v(1.)} 
+ {v(1/)} 
+ {v(1#)}
*+ {v(#)}
+ {v(`)} {v(~)} {v(!)} {v(@)} 
+ {v($)} {v(%)} {v(^)} {v(&)} 
+ {v(*)} {v(-)} {v(_)} {v(+)} {v([)} 
+ {v(])} {v(|)} {v(\)} {v(<)} {v(>)} {v(.)} 
+ {v(/)} 
+ v(X1:1`) v(X1:1~) v(X1:1!) v(X1:1@) 
+ v(X1:1#) v(X1:1$) v(X1:1%) v(X1:1^) v(X1:1&) v(X1:1-)
+ v(X1:1_) v(X1:1+) v(X1:1[) v(X1:1]) v(X1:1|) v(X1:1\) v(X1:1<) 
+ v(X1:1>) v(X1:1.) v(X1:1/) 
+ v(X1:`) v(X1:~) v(X1:!) v(X1:@) v(X1:#) v(X1:$) v(X1:%) v(X1:^)
+ v(X1:&) v(X1:-) v(X1:_) v(X1:+) v(X1:[) v(X1:]) v(X1:|) v(X1:\) 
+ v(X1:<) v(X1:>) v(X1:.) v(X1:/) 
+ {I(R3+)} {P(R3+)} {W(R3+)} {I(R-4)}
+ {IC(Q1+)} {IB(Q1+)} {IE(Q1+)}
*
* Excluding the current thru I(V*) and I(V1*) because this confuses the regex capability
*
+ {I(v1`)} {I(v1~)} {I(v1!)} {I(v1@)} {I(v1#)}
+ {I(v1$)} {I(v1%)} {I(v1^)} {I(v1&)} 
+ {I(v1-)} {I(v1_)} {I(v1+)} {I(v1[)} {I(v1])}
+ {I(v1|)} {I(v1\)} {I(v1<)} {I(v1>)} {I(v1.)}
+ {I(v1/)}
*
+ {I(v`)} {I(v~)} {I(v!)} {I(v@)} {I(v#)}
+ {I(v$)} {I(v%)} {I(v^)} {I(v&)} 
+ {I(v-)} {I(v_)} {I(v+)} {I(v[)} {I(v])}
+ {I(v|)} {I(v\)} {I(v<)} {I(v>)} {I(v.)}
+ {I(v/)}
*
+ I(v1`) I(v1~) I(v1!) I(v1@) I(v1#)
+ I(v1$) I(v1%) I(v1^) I(v1&) 
+ I(v1-) I(v1_) I(v1+) I(v1[) I(v1])
+ I(v1|) I(v1\) I(v1<) I(v1>) I(v1.)
+ I(v1/)
*
+ I(v`) I(v~) I(v!) I(v@) I(v#)
+ I(v$) I(v%) I(v^) I(v&) 
+ I(v-) I(v_) I(v+) I(v[) I(v])
+ I(v|) I(v\) I(v<) I(v>) I(v.)
+ I(v/)
*
v3  3 0 1
r3+ 3 0 2
v4  4 0 1
r-4 4 0 2
X1 2 0 sub1

* test 1 followed by the special character
v1` 1` 0 1
r1` 1` 0 1
v1~ 1~ 0 1
r1~ 1~ 0 1
v1! 1! 0 1
r1! 1! 0 1
v1@ 1@ 0 1
r1@ 1@ 0 1
v1# 1# 0 1
r1# 1# 0 1
v1$ 1$ 0 1
r1$ 1$ 0 1
v1% 1% 0 1
r1% 1% 0 1
v1^ 1^ 0 1
r1^ 1^ 0 1
v1& 1& 0 1
r1& 1& 0 1
v1* 1* 0 1
r1* 1* 0 1
v1- 1- 0 1
r1- 1- 0 1
v1_ 1_ 0 1
r1_ 1_ 0 1
v1+ 1+ 0 1
r1+ 1+ 0 1
v1[ 1[ 0 1
r1[ 1[ 0 1
v1] 1] 0 1
r1] 1] 0 1
v1| 1| 0 1
r1| 1| 0 1
v1\ 1\ 0 1
r1\ 1\ 0 1
v1< 1< 0 1
r1< 1< 0 1
v1> 1> 0 1
r1> 1> 0 1
v1. 1. 0 1
r1. 1. 0 1
v1/ 1/ 0 1
r1/ 1/ 0 1

* device and node names with just the special character
v` ` 0 1
r` ` 0 1
v~ ~ 0 1
r~ ~ 0 1
v! ! 0 1
r! ! 0 1
v@ @ 0 1
r@ @ 0 1
v# # 0 1
r# # 0 1
v$ $ 0 1
r$ $ 0 1
v% % 0 1
r% % 0 1
v^ ^ 0 1
r^ ^ 0 1
v& & 0 1
r& & 0 1
v* * 0 1
r* * 0 1
v- - 0 1
r- - 0 1
v_ _ 0 1
r_ _ 0 1
v+ + 0 1
r+ + 0 1
v[ [ 0 1
r[ [ 0 1
v] ] 0 1
r] ] 0 1
v| | 0 1
r| | 0 1
v\ \ 0 1
r\ \ 0 1
v< < 0 1
r< < 0 1
v> > 0 1
r> > 0 1
v. . 0 1
r. . 0 1
v/ / 0 1
r/ / 0 1

* repeat all tests, but in a subcircuit
.SUBCKT sub1 a b
R1 a b 1
* test 1 followed by the special character
v1` 1` 0 1
r1` 1` 0 1
v1~ 1~ 0 1
r1~ 1~ 0 1
v1! 1! 0 1
r1! 1! 0 1
v1@ 1@ 0 1
r1@ 1@ 0 1
v1# 1# 0 1
r1# 1# 0 1
v1$ 1$ 0 1
r1$ 1$ 0 1
v1% 1% 0 1
r1% 1% 0 1
v1^ 1^ 0 1
r1^ 1^ 0 1
v1& 1& 0 1
r1& 1& 0 1
v1* 1* 0 1
r1* 1* 0 1
v1- 1- 0 1
r1- 1- 0 1
v1_ 1_ 0 1
r1_ 1_ 0 1
v1+ 1+ 0 1
r1+ 1+ 0 1
v1[ 1[ 0 1
r1[ 1[ 0 1
v1] 1] 0 1
r1] 1] 0 1
v1| 1| 0 1
r1| 1| 0 1
v1\ 1\ 0 1
r1\ 1\ 0 1
v1< 1< 0 1
r1< 1< 0 1
v1> 1> 0 1
r1> 1> 0 1
v1. 1. 0 1
r1. 1. 0 1
v1/ 1/ 0 1
r1/ 1/ 0 1

* device and node names with just the special character
v` ` 0 1
r` ` 0 1
v~ ~ 0 1
r~ ~ 0 1
v! ! 0 1
r! ! 0 1
v@ @ 0 1
r@ @ 0 1
v# # 0 1
r# # 0 1
v$ $ 0 1
r$ $ 0 1
v% % 0 1
r% % 0 1
v^ ^ 0 1
r^ ^ 0 1
v& & 0 1
r& & 0 1
v* * 0 1
r* * 0 1
v- - 0 1
r- - 0 1
v_ _ 0 1
r_ _ 0 1
v+ + 0 1
r+ + 0 1
v[ [ 0 1
r[ [ 0 1
v] ] 0 1
r] ] 0 1
v| | 0 1
r| | 0 1
v\ \ 0 1
r\ \ 0 1
v< < 0 1
r< < 0 1
v> > 0 1
r> > 0 1
v. . 0 1
r. . 0 1
v/ / 0 1
r/ / 0 1

.ENDS

* Test multi-letter lead current designators.  
vie 0 10 0
vic 0 12 5
vib 0 11 1 
q1+ 12 11 10 qjunk 

.model qjunk npn
+bf=130 br=1 is=3e-14
+tf=1e-8 vjs=0.68 ne=1.6 nc=2.0 rb=450
+cje=1uf cjc=1uf cjs=1uf ikf=0.002 ikr=0.002 vaf=50 var=50
+nf=1.0 ise=0 nr=1 isc=0 irb=0 rbm=450 re=0 rc=0 vje=0.75 
+mje=0.33 xtf=0 vtf=100 itf=0 ptf=0 vjc=0.75 mjs=0 xtb=0 
+eg=1.11 xti=3 kf=0 af=1 fc=0.5 tnom=27

* Test that the use of valid operator names as the variable name
* in .FUNC statements doesn't cause Xyce to segfault 
.func fubar1(w) {IF(1 > w, 1, 0)}
.func fubar2(v) {IF(1 > v, 1, 0)}
.func fubar3(p) {IF(1 > p, 1, 0)}
.func fubar4(vr) {IF(1 > vr, 1, 0)}
.func fubar5(i) {IF(1 > i, 1, 0)}
.func fubar6(ic) {IF(1 > ic, 1, 0)}

.end

